US08426411B2
Step I: ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate
A 2 L flask was charged with freshly ground sodium hydroxide (9.55 g, 239 mmol). Ethanol (500 mL) was added and the mixture was stirred until all solid went into solution. A solution of a scalemic mixture enriched in (1R,3S,4R)-3-(ethoxycarbonyl)-4-ethylcyclopentyl 4-nitrobenzoate (16.02 g, 47.8 mmol) in ethanol (120 mL) was added through an additional funnel. The reaction mixture was stirred at ambient temperature overnight. The solid was filtered off while washing with DCM (100 mL). Saturated aqueous NaHCO3 (800 mL) was added to the filtrate and mixture was stirred for about 30 min. The solid formed was filtered off while washing with DCM (500 mL). The filtrate was washed with saturated aqueous NaHCO3 (2×200 mL) and brine (300 mL). The organic layer was dried over anhydrous MgSO4, filtered and concd under reduced pressure. The residue was purified using silica gel chromatography eluting with 0-60% EtOAc in DCM to give a scalemic mixture enriched in (1S,2R,4R)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate (5.49 g, 62%) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 4.53 (m, 1H), 4.11 (m, 2H), 3.09 (m 1H), 2.40 (m, 1H), 2.28 (m, 1H), 1.80 (m, 1H), 1.68 (m, 1H), 1.44 (m, 2H), 1.26 (t, 3H), 1.18 (m, 1H), 0.92 (t, 3H).

reactant | sodium hydroxide | 239 mmol, 9.55 g | [OH-].[Na+]
reactant | (1R,3S,4R)-3-(ethoxycarbonyl)-4-ethylcyclopentyl 4-nitrobenzoate | 47.8 mmol, 16.02 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C[C@@H]([C@@H](C2)CC)C(=O)OCC)C=C1 | C17H21NO6
solvent | ethanol | 120 mL | C(C)O | C2H6O
solvent | (1S,2R,4R)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate | 5.49 g | C(C)[C@H]1[C@H](C[C@@H](C1)O)C(=O)OCC | C10H18O3
solvent | Ethanol | 500 mL | C(C)O | C2H6O
product | ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate | C(C)C1C(CC(C1)O)C(=O)OCC | C10H18O3
